US07820658B2
2-Amino-4-cyano-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
2-Amino-4-chloro-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (1 equiv.), Zn(CN)2 (0.6 equiv.), Zn dust (0.12 equiv.), Pd2(dba)3 (0.02 mole eq.) and 1,1′-bis(diphenylphosphino)ferrocene (0.04 equiv.) were mixed in DMA and the mixture was stirred under argon at 120° C. for 24 hours. The resulting suspension was filtered through a short Celite column, the filtrate was diluted with brine and extracted with ethyl acetate. The organic layer was then washed with brine, water and dried over sodium sulphate. After evaporation of the solvent, the crude oil was purified by preparative TLC.

reactant | 2-Amino-4-chloro-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 1 equiv. | C(C)OC(=O)C1=CC2=C(N=C(N=C2Cl)N)S1 | C9H8ClN3O2S
reactant | DMA | CC(=O)N(C)C | C4H9NO
catalyst | Zn(CN)2 | 0.6 equiv. | [C-]#N.[C-]#N.[Zn+2]
catalyst | Zn | 0.12 equiv. | [Zn] | Zn
catalyst | Pd2(dba)3 | 0.02 mole | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.04 equiv. | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-Amino-4-cyano-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(N=C(N=C2C#N)N)S1 | C10H8N4O2S
